US07268232B2
A solution of 1-bromo-4-fluoronaphthalene (500 mg, 2.22 mmol) in tetrahydrofuran (5 mL) was added dropwise to stirred solution of t-BuLi (1.4 M in pentane, 3.17 mL, 4.44 mmol) in tetrahydrofuran (5 mL) at −78° C. The reaction mixture was stirred for 1 hour at −78° C., after which diethyl chlorophosphate (0.96 mL, 6.66 mmol) was added dropwise. The reaction mixture was left to warm to rt and concentrated. The residue was suspended in 2 M NaOH (50 mL) and extracted with dichloromethane (2×50 mL). The combined organic phases were dried over sodium sulfate, filtered and evaporated to give crude (4-fluoronaphthalen-1-yl)phosphonic acid diethyl ester (139MBT60-8C, 512 mg, 60% pure by NMR) as a yellow oil. 139MBT60-8C (200 mg, 0.425 mmol) was dissolved in pyrrolidine (0.5 mL) and stirred 2 hours at rt. The reaction mixture was concentrated and re-dissolved in dichloromethane (20 mL). The organic phase was washed with 2 M NaOH (20 mL) and dried over sodium sulfate, filtered and evaporated. The residue was purified by preparative TLC (0-5% methanol in dichloromethane) to give the title compound (89 mg, 30%) as a white solid.

reactant | 1-bromo-4-fluoronaphthalene | 2.22 mmol, 500 mg | BrC1=CC=C(C2=CC=CC=C12)F | C10H6BrF
reactant | t-BuLi | 4.44 mmol, 1.4 M, 3.17 mL | [Li]C(C)(C)C
reactant | diethyl chlorophosphate | 6.66 mmol, 0.96 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4-fluoronaphthalen-1-yl)phosphonic acid diethyl ester | 512 mg, 60% | C(C)OP(OCC)(=O)C1=CC=C(C2=CC=CC=C12)F | C14H16FO3P
